US07419975B2
To oven dried round bottom flask is added S,S-EBTHITiF2 (100 mgs, 0.3 mmol) and diluted with THF (5 mL). The flask is sealed and purged with argon. To the yellow solution is added phenylsilane (4.6 mL, 37.5 mmol), pyrrolidine (100 uL, 1.1 mmol), and anhydrous methanol (100 uL, 1.1 mmol). The resulting yellow mixture is stirred for 45 minutes until green color persisted. A solution of 5-(3-phenoxy-phenyl)-3,4-dihydro-2H-pyrrole (1.2 g, 5.05 mmol) in THF (2 mL) is added to the catalyst and the mixture is stirred for 8 hrs. The reaction is carefully quenched with 10% HCl (100 mL) until gas evolution subsided and the pH˜2. The mixture is diluted with EtOAc (100 mL) and the aqueous layer is removed, neutralized with 3M NaOH (50 mL) until basic and extracted with EtOAc (3×100 mL). The organics were combined, dried over Na2SO4, filtered and concentrated under reduced pressures. The solid residue is purifed by silica gel column chromatography (100% EtOAc) to give (S)-2-(3-phenoxy-phenyl)-pyrrolidine as a yellow solid (580 mgs, 48%). LCMS m/z 240.1 (M+1).

reactant | phenylsilane | 37.5 mmol, 4.6 mL | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | pyrrolidine | 1.1 mmol, 100 uL | N1CCCC1 | C4H9N
reactant | methanol | 1.1 mmol, 100 uL | CO | CH4O
reactant | 5-(3-phenoxy-phenyl)-3,4-dihydro-2H-pyrrole | 5.05 mmol, 1.2 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C=1CCCN1 | C16H15NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-2-(3-phenoxy-phenyl)-pyrrolidine | 580 mgs, 48% | O(C1=CC=CC=C1)C=1C=C(C=CC1)[C@H]1NCCC1 | C16H17NO
